US07700605B2
A mixture of [2-(4-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester (500 mg), 3-hydroxybenzeneboronic acid (296 mg), sodium carbonate (265 mg), palladium (II) acetate (7 mg) and tricyclohexylphosphine (10 mg) in water (3 ml) and dioxane (12 ml) is kept at 90° C. under micro wave conditions for 180 min. The mixture is cooled down to rt and is filtered through an EXTUBE extraction column (Varian) with EtOAc (200 ml). The filtrate is evaporated and the resulting crude product is purified on silica (150 g) with cyclohexane/EtOAc 5/1 to afford pure [2-(3′-hydroxy-biphenyl-4-yl)-ethyl]-carbamic acid tert-butyl ester.

reactant | [2-(4-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)Br)=O | C13H18BrNO2
reactant | 3-hydroxybenzeneboronic acid | 296 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | sodium carbonate | 265 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tricyclohexylphosphine | 10 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | water | 3 ml | O | H2O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [2-(3′-hydroxy-biphenyl-4-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)C1=CC(=CC=C1)O)=O | C19H23NO3
